US08012985B2
N,N′-di-tert-butyloxycarbonyl-S-methylisothiourea
A saturated aqueous DCM/NaHCO3 diphasic solution (100 ml) containing 5.81 g (26.60 mmol) of di-tert-butylcarbonate and 2.53 g (18.20 mmol) of S-methylisothiourea hemisulphate is left under vigorous stirring for 48 hours. After which, the separated aqueous phase, is extracted with 2×100 ml of DCM. The combined organic phases are then washed with 2×200 ml of water, then evaporated under reduced pressure. The residue is subsequently taken up in 100 ml of the saturated aqueous DCM/NaHCO3 diphasic mixture to which 0.55 g (3.85 mmol) of S-methylisothiourea hemisulphate is added. The reaction mixture is again left under vigorous stirring for 72 hours. The combined organic phases, after the same treatment as previously, are dried over sodium sulphate and evaporated under reduced pressure. The residue is finally purified on silica (Hexane/CHCl35% then CHCl3) in order to produce 3.46 g (90%) of product in the form of a white powder.

reactant | di-tert-butylcarbonate | 26.60 mmol, 5.81 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | S-methylisothiourea hemisulphate | 18.20 mmol, 2.53 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | S-methylisothiourea hemisulphate | 3.85 mmol, 0.55 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
solvent | DCM NaHCO3 | 100 ml | C(Cl)Cl.C(=O)(O)[O-].[Na+]
solvent | DCM NaHCO3 | 100 ml | C(Cl)Cl.C(=O)(O)[O-].[Na+]
product | N,N′-di-tert-butyloxycarbonyl-S-methylisothiourea | 3.46 g, 90% | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
